US06696540B2
reacting chloroacetaldehyde with hydrogen sulfide to obtain 2,4,6-tris(chloromethyl)-1,3,5-trithiane;

reactant | chloroacetaldehyde | ClCC=O | C2H3ClO
reactant | hydrogen sulfide | S | H2S
product | 2,4,6-tris(chloromethyl)-1,3,5-trithiane | ClCC1SC(SC(S1)CCl)CCl | C6H9Cl3S3
